US07435837B2
Treatment of (±)-1-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine (0.813 g, 2.46 mmol) with diisopropylethylamine (0.478 g, 3.69 mmol) and benzyl chloroformate (0.462 g, 2.71 mmol) generally according to the procedure described for Intermediate 12 gave 0.99 g (94%) of (±)-benzyl {7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methylcarbamate as a pale yellow oil Rf=0.60 (silica, ethyl acetate:hexanes 2:8); Anal. calcd. for C24H20F3NO3: C, 67.44; H, 4.71; N, 3.15. Found: C, 67.43H, 4.76; N, 3.15. Chiral HPLC separation of (±)-benzyl[7-(2-(trifluoromethyl))-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel OJ, isopropanol:carbon dioxide 3:17) provided two fractions. Fraction 1 (Rt=5.252 min, Chiralcel OJ, isopropanol:carbon dioxide 3:17); Fraction 2 (Rt=6.280 min, Chiralcel OJ, isopropanol:carbon dioxide 3:17).

reactant | (±)-1-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine | 2.46 mmol, 0.813 g | FC(C1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN)(F)F | C16H14F3NO
reactant | diisopropylethylamine | 3.69 mmol, 0.478 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 2.71 mmol, 0.462 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methylcarbamate | 0.99 g, 94% | FC(C1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O)(F)F | C24H20F3NO3
